US08283354B2
2-Amino-4-methyl-benzonitrile (15.4 g, 0.117 mol) was dissolved in 100 mL pyridine and cooled to 0° C. To this mixture was added dropwise 2-methoxy-6-methylbenzoyl chloride (24 g, 0.13 mol, 1.1 equiv). During the addition the temperature did not exceed 2° C. The reaction was stirred at room temperature for 48 hours. The mixture was poured into 400 mL ice water, and the precipitate was collected by filtration and washed with water. The crude product was dissolved in 600 mL CH2Cl2, and the solution was washed twice with 500 mL of a 1 N HCl solution and once with 400 mL of a saturated aq. NaCl solution. The CH2Cl2 layer was dried over Na2SO4, filtered, and concentrated to dryness to yield 25.44 g (0.09 mol, 77.6%) of N-(2-cyano-5-methyl-phenyl)-2-methoxy-6-methyl-benzamide.

reactant | 2-Amino-4-methyl-benzonitrile | 0.117 mol, 15.4 g | NC1=C(C#N)C=CC(=C1)C | C8H8N2
reactant | 2-methoxy-6-methylbenzoyl chloride | 0.13 mol, 24 g, 1.1 equiv | COC1=C(C(=O)Cl)C(=CC=C1)C | C9H9ClO2
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
product | N-(2-cyano-5-methyl-phenyl)-2-methoxy-6-methyl-benzamide | 0.09 mol, 25.44 g, 77.6% | C(#N)C1=C(C=C(C=C1)C)NC(C1=C(C=CC=C1C)OC)=O | C17H16N2O2
